US07902367B2
Step 92a) 4-(tert-Butoxycarbonyl)-2-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]methoxymethyl]morpholine
Using 4-(tert-butoxycarbonyl)morpholin-2-ylmethanol (217 mg, 1.00 mmol) and 5-chloromethyl-2-(4-chlorophenyl)-4-methylthiazole (258 mg, 1.00 mmol), the same procedure was followed as in Step 5a of Example 5 to give 303 mg (69%) of the desired compound as a yellow oil.

reactant | 4-(tert-butoxycarbonyl)morpholin-2-ylmethanol | 1.00 mmol, 217 mg | C(C)(C)(C)OC(=O)N1CC(OCC1)CO | C10H19NO4
reactant | 5-chloromethyl-2-(4-chlorophenyl)-4-methylthiazole | 1.00 mmol, 258 mg | ClCC1=C(N=C(S1)C1=CC=C(C=C1)Cl)C | C11H9Cl2NS
product | 4-(tert-Butoxycarbonyl)-2-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]methoxymethyl]morpholine | 303 mg, 69% | C(C)(C)(C)OC(=O)N1CC(OCC1)COCC1=C(N=C(S1)C1=CC=C(C=C1)Cl)C | C21H27ClN2O4S
